US04277498
2. Preparation of 2-Amino-N-(1,1-dimethylhexyl)acetamide
A mixture (1:1.1) of 2-methylhept-1-ene and 2-methylhept-2-ene (4.0 g) was added to a suspension of aminoacetonitrile bisulphate (5.5 g; 1 mol equiv.) in acetic acid (22 ml). The resultant mixture was warmed to 40°. Conc. sulphuric acid (4.5 ml) was then added over 10 minutes with stirring, so that the temperature did not rise above 70°. The mixture was left for 1 hour and then poured into ice-water (200 g). The aqueous phase was washed with ether (2×100 ml), basified with 10 N sodium hydroxide solution (100 ml) (pH 14), and extracted with ether (3×100 ml). The combined ether extracts were washed with water (50 ml), dried, and evaporated in vacuo (Buchi; 20°) to give the product as a yellow oil, which was dried at 0.2 mm/0.5 h/r.t. By t.l.c., i.r. and n.m.r. this product was identical with 2-amino-N-(1,1-dimethylhexyl)acetamide prepared from 2-methylheptan-2-ol.

reactant | 2-methylhept-1-ene | CC(=C)CCCCC | C8H16
reactant | 2-methylhept-2-ene | 4.0 g | CC(C)=CCCCC | C8H16
reactant | aminoacetonitrile bisulphate | 1 mol, 5.5 g | S(O)(O)(=O)=O.NCC#N
reactant | sulphuric acid | 4.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 22 ml | C(C)(=O)O | C2H4O2
product | 2-Amino-N-(1,1-dimethylhexyl)acetamide | NCC(=O)NC(CCCCC)(C)C | C10H22N2O
